data/specific_train_final.csv
"[H:4][O:5][O:6].[CH3:1][O:2][O:3]>>[H:4][O:3][O:2][CH3:1].[O:5][O:6] 3-3,4; 4,5-3,4; 4,5-5",Room Temperature,Propagation,abstraction
CC(C)(OC(C[O])=O)C.O=[N:10][O:21]>>CC(C)(OC(C[O])=O)C.O=[N+:10][O-:21] 10-21,Room Temperature,Propagation,ha resonance
"[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:8][O:9].[H:17][O:16][O:15]>>[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:8][O:9][H:17].[O:15][O:16] 9-9,17; 17,16-17,9; 17,16-16",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC1(C2CCC(C1C2)(CO)O[O:10])C>>[H:20][O:10]OC1(CCC2CC1C2(C)C)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCC(C[O:20][O:21]N=O)O>>CCCCC(C[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(C)(C)[O:20][O:21][O]>>CC(C)C(C)(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO[N+](=O)[O-])(C(C=O)[O:20][OH:21])O.[He]>>[He].CC(CO[N+](=O)[O-])(C(C=O)[O:20])O.[OH:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"CCCCC(CO)[O:20].[N+:10](=O)[O-]>>CCCCC(CO)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C1CCC(=CC1)CO)[O:21][O:20][O].[N+](=O)[O-]>>CC(C)(C1CCC(=CC1)CO)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C=O)OO)([CH:21](O)[O:20][O])O>>CC([CH:21]O)(C(C=O)OO)O.[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(=O)C([C:20](C)C1C(O1)(CC)C=O)O.[O:10][O]>>CCC(=O)C([C:20](C)(C1C(O1)(CC)C=O)[O:10][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"COC(CO)[O:20][O:21]N=O>>COC(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)(C)COO[O:20][N+:21](=O)[O-]>>CCC(C)(C)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[N:20](=O)[O:21]>>[N+:20](=O)[O-:21] 20-21,Room Temperature,Propagation,ha resonance
"CCOC(C)(C)COO[O:20][N+:21](=O)[O-]>>CCOC(C)(C)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOC(C)O[O:20].[N:10]=O>>CCOC(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C(CO[N+](=O)[O-])[O:20][O:21][O]>>CC(C)C(CO[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(O)(Cl)Cl)(O[O:20])Cl.[N+](=O)([O-])[O:10]>>C(C(O)(Cl)Cl)(O[O:20][O:10][N+](=O)[O-])Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(O)Cl)O[O:20].[N:10]=O>>C(C(O)Cl)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:5][C:4](=[CH:3][CH2:2][O:1])[CH2:6][OH:7].[N+:9](=[O:10])[O-:8]>>[CH3:5][C:4](=[CH:3][CH2:2][O:1][N+:9](=[O:10])[O-:8])[CH2:6][OH:7] 1-1,9; 9-9,1",Room Temperature,Termination,recombine
"CCC(CC=O)[O:20][O:21]N=O>>CCC(CC=O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=C)C(=O)[O:20][O:21][O]>>CC(=C)C(=O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(O)(Cl)Cl)([O:20][O:21]N=O)Cl>>C(C(O)(Cl)Cl)([O:20])Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C=CCO[O:20])O.[N+](=O)([O-])[O:10]>>C(C=CCO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)C([CH:10]C1C(O1)(C)C(=O)C)O.[O:20][O]>>CC(=O)C([CH:10](C1C(O1)(C)C(=O)C)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:7][CH:6]([C:8]([CH3:9])([CH3:10])[O:11][N+:12](=[O:14])[O-:13])[O:5][O:4][O:3][N+:2](=[O:1])[O-:15]>>[CH3:7][CH:6]([C:8]([CH3:9])([CH3:10])[O:11][N+:12](=[O:14])[O-:13])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:15] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]OCCO.[OH:10]>>[H:20][OH:10].[CH2:21]OCCO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C(Cl)Cl)(O[O:20])Cl.[N:10]=O>>C(C(Cl)Cl)(O[O:20][N:10]=O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC12C=C(C(C(C1O)(OO2)C)O[O:10])C>>[H:20][O:10]OC1C(=CC2(C(C1(OO2)C)O)CC)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(CO)[O:20].[N+:10](=O)[O-]>>CCCC(CO)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(CCl)Cl)[O:20][O:21]N=O>>C(C(CCl)Cl)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO[CH2:20])O.[O:10][O]>>CC(CO[CH2:20][O:10][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(O[O:20])Cl.[N+](=O)([O-])[O:10]>>CC(O[O:20][O:10][N+](=O)[O-])Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(=O)C=C(C)C1C(O1)(CC)[C:10]=O.[O:20][O]>>CCC(=O)C=C(C)C1C(O1)(CC)[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=CC=CC(C)=C1C(C)[O:10][O:20][O].[N+]([O-])=O>>C1=CC=CC(C)=C1C(C)[O:10].[O:20][O].[N+]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
